US04956359
3-[(4-Chlorophenyl)thio]-N-methyl-1-azetidinecarboxamide
A stirred solution of 2.6 g (0.01 mole) of 3-[(4-chlorophenyl)thio]-1-azetidinecarbonyl chloride in 20 ml of tetrahydrofuran was cooled in a water bath and treated with 2 ml (0.02 mole) of 40% methylamine in water. After 3 hr, the reaction mixture was diluted with 200 ml of water and the precipitated product collected by filtration (2.6 g). Recrystallization from benzene/methanol yielded 2.4 g (93.8%) of fine white crystals, m.p. 161°-162° C.

reactant | 3-[(4-chlorophenyl)thio]-1-azetidinecarbonyl chloride | 0.01 mole, 2.6 g | ClC1=CC=C(C=C1)SC1CN(C1)C(=O)Cl | C10H9Cl2NOS
reactant | methylamine | 0.02 mole, 2 ml | CN | CH5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | 200 ml | O | H2O
product | 3-[(4-Chlorophenyl)thio]-N-methyl-1-azetidinecarboxamide | 2.4 g, 93.8% | ClC1=CC=C(C=C1)SC1CN(C1)C(=O)NC | C11H13ClN2OS
